Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
nausea, vomiting, diarrhea
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ y/o M w/ HTN and HLD, presenting now
for significant nausea, vomiting, and worsening renal failure. 
He went to ___ for three weeks ago he went to ___
with his girlfriend returning on ___. He states he felt
fine on vacation, but did start having some intermittent 
episodes
of diarrhea. He was not concerned because he thought it would
stop once he left ___. Once he returned he developed
nausea and inability to keep down any po and increased frequency
of diarrhea. He has been unable to tolerate even water over the
last week. This prompted patient to present to an urgent care on
___. where his Cr was noted to have gone from 1 -> 4. He was
asked to come back today for further evaluation, and his Cr was
found to be 6. He was informed he should present here for 
further
evaluation. He notes his emesis is mostly yellow now, denies any
blood. He continues to have diarrhea 3x per day. It is yellow
without blood. Denies any fevers, chills, or even abdominal 
pain.
He has lost 3 lbs. His girlfriend ate the same foods he ate and
she was not sick. He eats the same foods there as he eats here 
in
the ___. He has not been camping or drank water from any streams.
No other strange foods. 
 
Past Medical History:
HTN
HLD
 
Social History:
___
Family History:
Mother died at age ___. She had DM and HTN.
Father with DM and HTN. 
 
Physical Exam:
Admission Physical Exam:
========================
GEN: NAD
EYES: anicteric
HENT: MMM
CV: RRR, no murmurs, no JVD
RESP: non-labored on RA, good air entry b/l, no crackles, no
wheezes
GI: soft, non-distended, non-tender, no hepatomegaly, normal
bowel sounds
GU: no suprapubic tenderness
EXT: no edema
SKIN: no rash
NEURO: alert, oriented x4
PSYCH: calm

Discharge Physical Exam:
========================
Vitals: see Eflowsheets
GEN: NAD
EYES: anicteric
HENT: MMM
CV: RRR, no murmurs, no JVD
RESP: non-labored on RA
GI: soft, non-distended
GU: no foley
EXT: no edema
SKIN: no rash
NEURO: AAO X 3
PSYCH: calm
 
Pertinent Results:
Admission Labs:
===============
___ 07:57PM BLOOD Glucose-148* UreaN-74* Creat-6.6*# 
Na-129* K-3.7 Cl-91* HCO3-14* AnGap-24*
___ 06:50AM BLOOD Glucose-118* UreaN-73* Creat-5.7* Na-135 
K-3.3* Cl-93* HCO3-16* AnGap-26*

Imaging:
========
CT Abd/Pelvis:
1. No acute findings in the abdomen or pelvis within limitations 
of a 
noncontrast study.  No bowel obstruction. 
2. Vague stranding in the upper central mesentery, which may 
represent mild  edema or mesenteric panniculitis. 

Discharge Labs:
===============
___ 06:50AM BLOOD WBC-8.7 RBC-4.38* Hgb-13.4* Hct-39.2* 
MCV-90 MCH-30.6 MCHC-34.2 RDW-11.6 RDWSD-37.4 Plt ___
___ 06:50AM BLOOD Glucose-109* UreaN-39* Creat-1.7*# Na-141 
K-4.1 Cl-101 HCO3-25 AnGap-15
___ 06:50AM BLOOD Calcium-9.0 Phos-2.5* Mg-1.___ with PMH asthma, HTN, HLD, who presented with 
nausea/vomiting and diarrhea and was found to have severe ___ 
with creatinine of 6.6.

# Gastroenteritis
Presented with reports of two weeks of nausea/vomiting and 
diarrhea. C diff testing was negative. Stool cultures were 
pending at time of discharge but negative thus far. His symptoms 
improved spontaneously. He was tolerating a regular diet at time 
of discharge and diarrhea had largely resolved.
Symptoms most likely secondary to viral gastroenteritis, but 
given longer reported duration of symptoms, could also consider 
post-infectious diarrhea or IBS.

# ___
# Metabolic acidosis:
Cr 6.6, HCO3 14, AG 24 on admission. Baseline Cr 1.0. He was 
seen by neurology who did not find evidence of ATN and felt that 
his ___ was most likely prerenal in etiology, though unusually 
severe. His creatinine rapidly improved with IV fluids and had 
downtrended to 1.7 at time of discharge.
He did require potassium repletion likely due to losses from 
autodiuresis, but this had stabilized prior to discharge.
He was counseled to follow up with his primary doctor within the 
next week to have creatinine and electrolytes rechecked.

# HTN
# HLD
Not on any medications at home

> 30 minutes spent on discharge coordination and planning

Transitional Issues:
====================
- needs creatinine and electrolytes rechecked within the next 
week
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sildenafil 20 mg PO DAILY:PRN sex 
2. budesonide-formoterol 160-4.5 mcg/actuation inhalation BID 
3. Albuterol Inhaler 2 PUFF IH Q4H:PRN sob 
4. Aspirin 81 mg PO DAILY:PRN ocassionally 

 
Discharge Medications:
1.  Albuterol Inhaler 2 PUFF IH Q4H:PRN sob  
2.  Aspirin 81 mg PO DAILY:PRN ocassionally  
3.  budesonide-formoterol 160-4.5 mcg/actuation inhalation BID  
4.  Sildenafil 20 mg PO DAILY:PRN sexual activity  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Gastroenteritis
___

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You came in with nausea/vomiting and diarrhea. We think this was 
likely caused by a viral gastroenteritis. We also found that 
your kidneys were not working properly, most likely due to 
dehydration. We treated you with IV fluid and your kidneys were 
improving.

It will be important to follow up with your primary care doctor 
within the next several days in order to have your kidney 
function rechecked.

It was a pleasure taking care of you, and we are happy that 
you're feeling better!
 
Followup Instructions:
___